US05256675
A mixture of 2-acetylamino-5-(4-hydroxyphenylthio)thiazole (1.5 g) in a mixture of ethanol (40 ml) and aqueous 6N hydrochloric acid (6 ml) was refluxed for 4.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 10 using aqueous sodium hydroxide under ice cooling. The precipitates were collected by filtration and recrystallized from a mixture of ethanol and water (3:1) to give 2-amino-5-(4-hydroxyphenylthio)thiazole (1.05 g, yield: 84.0%). mp: 187°-188° C.

reactant | 2-acetylamino-5-(4-hydroxyphenylthio)thiazole | 1.5 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)O | C11H10N2O2S2
reactant | hydrochloric acid | 6N, 6 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-amino-5-(4-hydroxyphenylthio)thiazole | 1.05 g, yield: 84.0% | NC=1SC(=CN1)SC1=CC=C(C=C1)O | C9H8N2OS2
